US08389759B2
Synthesis of 4-(tetrahydro-pyran-2-yloxy)-but-2-ynyl iodide (3) (x=I)
To a stirred solution of triphenylphosphine (1.4154 g, 5.34 mmol) in anhydrous dichlormethane (20 mL) at room temperature under nitrogen was added imidazole (360 mg, 5.24 mmol), followed by iodide (1.2688 g, 4.95 mmol). The mixture was stirred for three minutes, a solution of 4-(tetrahydro-pyran-2-yloxy)-but-2-yn-1-ol (708.6 mg, 4.16 mmol) in dichloromethane was added dropwise via spring. The resulting mixture was continued to be stirred for 1.5 hours. The mixture was filtered through a pad of Celite. And the solid was washed with dichloromethane. The combined organic filtration was concentrated under reduced pressure. The residue was separated with flash column chromatography on silica using 0-20% EtOAc/hexane to afford 654 mg of product in 56% yield. 1H-NMR (CDCl3): δ 4.77 (t, J=3.0 Hz, 1 H), 4.33-4.18 (m, 2 H), 3.85-3.77 (m, 1 H), 3.70 (t, J=2.1 Hz, 2 H), 3.56-3.49 (m, 1 H), 1.85-1.62 (m, 6 H).

reactant | triphenylphosphine | 5.34 mmol, 1.4154 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 5.24 mmol, 360 mg | N1C=NC=C1 | C3H4N2
reactant | iodide | 4.95 mmol, 1.2688 g | [I-]
reactant | 4-(tetrahydro-pyran-2-yloxy)-but-2-yn-1-ol | 4.16 mmol, 708.6 mg | O1C(CCCC1)OCC#CCO | C9H14O3
solvent | dichlormethane | 20 mL | ClCCl | CH2Cl2
product | 4-(tetrahydro-pyran-2-yloxy)-but-2-ynyl iodide | 654 mg, 56% yield | O1C(CCCC1)OCC#CCI | C9H13IO2
